US09340546B2
2-(2-methyl-1,3-dioxolan-2-yl)acetaldehyde (320 mg, 2.459 mmol) and (3-bromo-5-nitro-4-pyridyl)hydrazine (286.4 mg, 1.229 mmol) were heated under reflux in ethanol (2.864 mL) overnight. The reaction mixture was concentrated in vacuo and the residue was partitioned between DCM and a saturated aqueous sodium hydrogen carbonate solution. Combined organic extract was dried over MgSO4 and concentrated in vacuo to leave 3-bromo-4-(5-methyl-1H-pyrazol-1-yl)-5-nitropyridine as a yellow oil. (200 mg, 85%). MS (ES+) 284.9.

reactant | 2-(2-methyl-1,3-dioxolan-2-yl)acetaldehyde | 2.459 mmol, 320 mg | CC1(OCCO1)CC=O | C6H10O3
reactant | (3-bromo-5-nitro-4-pyridyl)hydrazine | 1.229 mmol, 286.4 mg | BrC=1C=NC=C(C1NN)[N+](=O)[O-] | C5H5BrN4O2
solvent | ethanol | 2.864 mL | C(C)O | C2H6O
product | 3-bromo-4-(5-methyl-1H-pyrazol-1-yl)-5-nitropyridine | BrC=1C=NC=C(C1N1N=CC=C1C)[N+](=O)[O-] | C9H7BrN4O2
